US04939302
162.2 grams of a 37% by weight aqueous solution of formaldehyde (equivalent to 2 moles), 404 grams of n-dodecyl mercaptan (equivalent to 2 moles) and 250 milliliters of hexane were placed in a one liter flask equipped with an overhead azeotropic mixture condenser and a condensed water and hexane component separator. A fixed bed of Amberlyst 15 acid-type ion exchange resin catalyst was provided, and the reaction mixture in the flask was circulated by a pump from the flask through the catalyst bed and back to the flask at a rate of about 2 milliliters per minute for a time period of 4 hours. While the reaction mixture was being circulated through the catalyst bed, it was heated to a temperature of approximately 100° C. whereby the azeotropic mixture formed by the hexane and water in the flask was vaporized, withdrawn from the flask and condensed. The water component of the condensed azeotropic mixture was separated from the hexane component and withdrawn, and the hexane was returned to the reaction flask. A 91.8% yield of dodecyl hydroxymethyl sulfide was realized after the hexane was removed by vacuum evaporation.

reactant | formaldehyde | 2 moles | C=O | CH2O
reactant | n-dodecyl mercaptan | 2 moles, 404 grams | C(CCCCCCCCCCC)S | C12H26S
reactant | hexane | 250 milliliters | CCCCCC | C6H14
solvent | water | O | H2O
product | dodecyl hydroxymethyl sulfide | 91.8% yield | OCSCCCCCCCCCCCC | C13H28OS
